US04876028
(2S,3S)-(-)-2-[4-(5-nonyl-pyrimidin-2-yl)phenyloxy]methyl-3-pentyl-oxirane (Example 4).
1.31 g (5 mmol) of triphenyl phosphine and 0.79 g (5 mmol) of diethyl azodicarboxylate are combined in 10 ml of tetrahydrofuran at 0° C. After 20 minutes, 1.49 g (5 mmol) of 2-(4-hydroxyphenyl)-5-n-nonylpyrimidine and 0.72 g (5 mmol) of (2S,3S)-2,3-epoxyoctane, each in 8 ml of tetrahydrofuran, are added. After 24 hours, the mixture is evaporated to dryness in vacuo, and the residue is chromatographed on silica gel (200 g) using CH2Cl2. After recrystallization from hexane, 0.79 g of colorless crystals is obtained; (α) D25 : -15.3° (c=5,CHCl3)

reactant | triphenyl phosphine | 5 mmol, 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5 mmol, 0.79 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(4-hydroxyphenyl)-5-n-nonylpyrimidine | 5 mmol, 1.49 g | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C19H26N2O
reactant | (2S,3S)-2,3-epoxyoctane | 5 mmol, 0.72 g | O1[C@@H](C)[C@@H]1CCCCC | C8H16O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (2S,3S)-(-)-2-[4-(5-nonyl-pyrimidin-2-yl)phenyloxy]methyl-3-pentyl-oxirane | 0.79 g | C(CCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OC[C@@H]1O[C@H]1CCCCC | C27H40N2O2
